US04292431
To a suspension of 2.1 g (0.01 mol) of 1-cyclohexyl-5-carbmethoxyimidazole in 6 ml of water are added 0.8 g (0.02 mol) of sodium hydroxide and 4 ml of ~37% aqueous formaldehyde solution. The resultant mixture is heated at 80°-90° C. for about 2 hours. After completion of the reaction, the solvent is stripped off, and the remaining residue is extracted with ethyl acetate. The ethyl acetate extracted is concentrated to give 1-cyclohexyl-5-hydroxymethylimidazole as a solid, m.p. 133°-134° C.

reactant | 1-cyclohexyl-5-carbmethoxyimidazole | 0.01 mol, 2.1 g | C1(CCCCC1)N1C=NC=C1C(=O)OC | C11H16N2O2
reactant | sodium hydroxide | 0.02 mol, 0.8 g | [OH-].[Na+]
reactant | formaldehyde | 4 ml | C=O | CH2O
solvent | water | 6 ml | O | H2O
product | 1-cyclohexyl-5-hydroxymethylimidazole | C1(CCCCC1)N1C=NC=C1CO | C10H16N2O
